US05473070
This example illustrates a synthesis for 1-(9-hydroxydecyl)-3,7-dimethylxanthine racemic mixture (CT 1552). The synthesis begins with a solution of CT1564 (2.11 g, 6.0 mmol) from Example 2. CT1564 was stirred with HBr (5.38 ml, 4.85 g of a 30% solution in acetic acid, 18 mmol) for 90 min. The mixture was added to a flask containing saturated aqueous sodium bicarbonate solution (40 ml) and 50 ml of dichloromethane. After 10 min of vigorous stirring, the layers were separated and the aqueous layers were washed with dichloromethane (2×50 ml). The organic portions were combined, dried with sodium sulfate, and evaporated to give 1-(9'-acetoxy-10'-bromodecyl)-3,7-dimethylxanthine as a yellow oil (2.72 g, 100% yield). Without further purification, the oil was taken up in methanol (30 ml), and treated with a solution of sodium methoxide (prepared from 151 mg, 6.6 mmol sodium and 6 ml methanol). After 30 min, the reaction mixture was added to water (30 ml) and extracted with dichloromethane (3×50 ml). The organic layers were combined and dried with sodium sulfate to give an off-white solid which was recrystalized (dichloromethane/petroleum ether) to yield 1-(9,10-oxidodecyl)-3.7-dimethylxanthine racemic mixture (CT1565).

reactant | 1-(9-hydroxydecyl)-3,7-dimethylxanthine | OC(CCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C | C17H28N4O3
reactant | HBr | Br | BrH
reactant | sodium bicarbonate | 40 ml | C([O-])(O)=O.[Na+]
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(9'-acetoxy-10'-bromodecyl)-3,7-dimethylxanthine | 2.72 g, 100% yield | C(C)(=O)OC(CCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C19H29BrN4O4
